US07598249B2
4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid pyridin-4-ylamide
The title compound was prepared from pyridin-4-yl-carbamic acid phenyl ester and 1-benzo[1,3]dioxol-5-ylmethyl-piperazine. 1H NMR (400 MHz, CDCl3): 8.33 (d, J=5.3 Hz, 2H), 7.35-7.34 (m, 2H), 6.79 (s, 1H), 6.68-6.67 (m, 2H), 5.89 (s, 2H), 3.48-3.45 (m, 4H), 3.39 (s, 2H), 2.43-2.40 (m, 4H).

reactant | pyridin-4-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=CC=NC=C1)=O | C12H10N2O2
reactant | 1-benzo[1,3]dioxol-5-ylmethyl-piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | 4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid pyridin-4-ylamide | N1=CC=C(C=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1 | C18H20N4O3
